US04943580
A mixture of 20 parts of ethyl [2-[2-[[1-(phenylmethyl)-4-piperidinyl]amino]-3H-imidazo[4,5-b]-pyridin-3-yl]ethyl]carbamate, 26.3 parts of potassium hydroxide and 200 parts of 2-propanol was stirred for 1.5 hour at reflux temperature. The reaction mixture was evaporated and the residue was taken up in water. The whole was evaporated again. The residue was taken up in a small amount of water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was boiled in 2,2'-oxybispropane (+activated charcoal) and the whole was filtered over diatomaceous earth. The filtrate was allowed to crystallize. The crystallized product was filtered off (the filtrate was set aside) and dried, yielding a first fraction of 6.7 parts (40.6%) of 2-[[1-(phenylmethyl)-4-piperidinyl]amino]-3H-imidazo[4,5-b]pyridine-3-ethanamine. The filtrate, which was set aside (see above) was evaporated, yielding a second fraction of 6.6 parts (40.0%) of 2-[[1-(phenylmethyl)-4-piperidinyl]amino]-3H-imidazo[4,5-b]pyridine-3-ethanamine. Total yield: 13.3 parts (80.6%) of 2-[[1-(phenylmethyl)-4-piperidinyl]amino]-3H-imidazo[4,5-b]pyridine-3-ethanamine; mp. 101.7° C. (compound 187).

reactant | ethyl [2-[2-[[1-(phenylmethyl)-4-piperidinyl]amino]-3H-imidazo[4,5-b]-pyridin-3-yl]ethyl]carbamate | C1(=CC=CC=C1)CN1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CCNC(OCC)=O | C23H30N6O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-[[1-(phenylmethyl)-4-piperidinyl]amino]-3H-imidazo[4,5-b]pyridine-3-ethanamine | 40.6% | C1(=CC=CC=C1)CN1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CCN | C20H26N6
